US07229999B2
6-Cyclopropylmethoxy-N-((1RS,2RS)-2-hydroxy-cyclohexylmethyl)-5-(4-trifluoromethoxy-phenyl)-nicotinamide
The title compound was synthesized in analogy to Example 75, using 5-bromo-6-chloro-3-pyridinecarboxylic acid, hydroxymethyl-cyclopropan, 4-(trifluoromethoxy)phenylboronic acid and cis-2-aminomethyl-1-cyclohexanol hydrochloride as starting materials to yield racemic 6-cyclopropylmethoxy-N-((1RS,2RS)-2-hydroxy-cyclohexylmethyl)-5-(4-trifluoromethoxy-phenyl)-nicotinamide. MS (ISP) 465.3 (M+H)+.

reactant | 5-bromo-6-chloro-3-pyridinecarboxylic acid | BrC=1C=C(C=NC1Cl)C(=O)O | C6H3BrClNO2
reactant | hydroxymethyl-cyclopropan | OCC1CC1 | C4H8O
reactant | 4-(trifluoromethoxy)phenylboronic acid | FC(OC1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O3
reactant | cis-2-aminomethyl-1-cyclohexanol hydrochloride | Cl.NC[C@@H]1[C@@H](CCCC1)O
product | racemic 6-cyclopropylmethoxy-N-((1RS,2RS)-2-hydroxy-cyclohexylmethyl)-5-(4-trifluoromethoxy-phenyl)-nicotinamide | C1(CC1)COC1=NC=C(C(=O)NCC2C(CCCC2)O)C=C1C1=CC=C(C=C1)OC(F)(F)F | C24H27F3N2O4
